US07981903B2
To a solution of 2-amino-4,6-difluoro benzoic acid (4.0 g, 23.12 mmol, Butt Park Ltd.) in tetrahydrofuran (1.0 L) and N,N-dimethylacetamide (150 mL) was added EDCl.HCl (13.44 g, 70 mmol, Aldrich), HOBT (9.5 g, 70 mmol, Aldrich) and ammonia as a 0.5M solution in dioxanes (460 mL, 230 mmol, Aldrich). The resultant slurry was stirred for 24 hours, and then solids removed by filtration through celite. The filtrate was taken to a residue under reduced pressure and partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by chromatography on SiO2 (Ethyl acetate/Hexanes) to afford analytically pure 2-amino-4,6-difluorobenzamide as a white crystalline solid (3.11 g, 78% yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 6.21-6.27 (m, 1 H), 6.27-6.32 (m, 1 H), 6.52 (s, 2 H), 7.48 (s, 1 H), 7.53 (s, 1 H).

reactant | 2-amino-4,6-difluoro benzoic acid | 23.12 mmol, 4.0 g | NC1=C(C(=O)O)C(=CC(=C1)F)F | C7H5F2NO2
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 70 mmol, 13.44 g | Cl | ClH
reactant | HOBT | 70 mmol, 9.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 1.0 L | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 150 mL | CN(C(C)=O)C | C4H9NO
product | 2-amino-4,6-difluorobenzamide | 3.11 g, 78% yield | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
